US06787653B2
In toluene (200 mL)-methanol (50 mL) were dissolved 50.0 g (86.5 mmol) of 1,3-bis[4-(4-bromobenzoyl)-1-piperazinyl] propane and 42.16 g (199 mmol) of 3,4,5-trimethoxyphenylboronic acid. The mixture was degassed with nitrogen. A solution of 9.35 g (173 mmol) of sodium methoxide in methanol (150 mL) was added in portions, then a solution of 9.35 g (173 mmol) of sodium methoxide in methanol (150 mL) and a solution of 970 mg (4.32 mmol) of palladium(II) acetate in toluene (150 mL) were added dropwise simultaneously over about 1 hour. After stirring for 1 hour at room temperature, 9.2 g of activated carbon was added and the mixture was stirred under hydrogen for 3 hours at room temperature. Insoluble materials were filtered off by filtration through Celite and the residue was washed with methanol-toluene (1:1,3×75 mL). The filtrate and the washings were combined and concentrated under reduced pressure, then water-isopropanol (5:1, 750 mL) was added. After stirring for 30 minutes at room temperature, precipitates were collected by filtration and washed with water-isopropanol (5:1, 3×100 mL) to obtain 65.6 g of crude crystals. To a suspension of the crude crystals (65.6 g) in methanol-tetrahydrofuran (1:2, 350 mL) stirred at 70° C. was added 3.3 g of activated carbon, and the mixture was stirred for 1.5 hours. Insoluble materials were filtered off at the same temperature and the residue was washed with hot methanol-tetrahydrofuran (1:2, 2×130 mL). The filtrate and the washings were combined and stirred at 70° C. to obtain a homogeneous solution, then heptane (390 mL) was added over about 1 hour. The mixture was stirred for 30 minutes at room temperature and for 1 hour in an ice bath. Precipitates were collected by filtration and washed with tetrahydrofuran-heptane (1:5, 3×130 mL) to obtain 59.48 g of 1,3-bis[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl] propane as a colorless crystalline powder (yield: 92%).mp: 192.0 to 193.5° C.

reactant | 1,3-bis[4-(4-bromobenzoyl)-1-piperazinyl] propane | 86.5 mmol, 50.0 g | BrC1=CC=C(C(=O)N2CCN(CC2)CCCN2CCN(CC2)C(C2=CC=C(C=C2)Br)=O)C=C1 | C25H30Br2N4O2
reactant | 3,4,5-trimethoxyphenylboronic acid | 199 mmol, 42.16 g | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
reactant | sodium methoxide | 173 mmol, 9.35 g | C[O-].[Na+]
reactant | sodium methoxide | 173 mmol, 9.35 g | C[O-].[Na+]
reactant | heptane | 390 mL | CCCCCCC | C7H16
reactant | methanol tetrahydrofuran | 350 mL | CO.O1CCCC1
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 50 mL | CO | CH4O
solvent | methanol | 150 mL | CO | CH4O
solvent | methanol | 150 mL | CO | CH4O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 4.32 mmol, 970 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1,3-bis[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl] propane | 59.48 g, yield: 92% | COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCN(CC2)CCCN2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)C=C1 | C43H52N4O8
